US07811642B2
22.2 g of 5-[(4-nitrobenzoyl)oxy]-1-naphthyl 4-nitrobenzoate (48.4 mM) were suspended in 400 ml of DMF and 2.5 g of palladium on charcoal (10%) were added. The resulting mixture was hydrogenated at atmospheric pressure until the theoretical amount of hydrogen was consumed. The mixture was then filtered, the cake was washed with DMF and the filtrate was poured onto 4 L of water. The resulting suspension was stirred for 10 min. and the solids ware filtered off, washed with water and dried to give 16.0 g (40.2 mM, 83.0%) of 5-[(4-aminobenzoyl)oxy]-1-naphthyl 4-aminobenzoate as beige crystals.

reactant | 5-[(4-nitrobenzoyl)oxy]-1-naphthyl 4-nitrobenzoate | 48.4 mM, 22.2 g | [N+](=O)([O-])C1=CC=C(C(=O)OC2=CC=CC3=C(C=CC=C23)OC(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C24H14N2O8
reactant | hydrogen | [H][H] | H2
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
catalyst | palladium on charcoal | 2.5 g | [Pd] | Pd
product | 5-[(4-aminobenzoyl)oxy]-1-naphthyl 4-aminobenzoate | 40.2 mM, 16.0 g, 83.0% | NC1=CC=C(C(=O)OC2=CC=CC3=C(C=CC=C23)OC(C2=CC=C(C=C2)N)=O)C=C1 | C24H18N2O4
